US09034880B2
A mixture of ethyl 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetate (200 mg) and 4-methylpiperidine (2 ml) was heated at 120° C. for 8 h to obtain 40 mg of 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(4-methylpiperidin-1-yl)ethanone after purification on neutral alumina chromatography eluting with methanol-dichloromethane gradient. The free base was converted into its oxalate salt by treatment of oxalic acid (1 equiv) in anhydrous THF.

reactant | ethyl 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetate | 200 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)OCC)CCN(C3)C | C16H19ClN2O2
reactant | 4-methylpiperidine | 2 ml | CC1CCNCC1 | C6H13N
product | 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(4-methylpiperidin-1-yl)ethanone | 40 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)N1CCC(CC1)C)CCN(C3)C | C20H26ClN3O
